US07718652B2
A solution of 2-{[(3-{[tert-butyl(diphenyl)silyl]oxy}propyl)amino]methyl}aniline (0.45 g, 1.1 mmol) and sulfamide (0.12 g, 1.3 mmol) in diglyme (5 mL) was added dropwise to a flask containing refluxing diglyme (3 mL) over 10 minutes. The reaction mixture was stirred at reflux for 1 hour, then cooled to room temperature and evaporated to a brown oil. The crude reaction product was purified by flash chromatography (SiO2, 3-30% ethyl acetate/hexanes) to afford 3-(3-{[tert-butyl(diphenyl)silyl]oxy}propyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (0.50 g, 95%) as a colorless oil:

reactant | 2-{[(3-{[tert-butyl(diphenyl)silyl]oxy}propyl)amino]methyl}aniline | 1.1 mmol, 0.45 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCNCC1=C(N)C=CC=C1 | C26H34N2OSi
reactant | sulfamide | 1.3 mmol, 0.12 g | S(=O)(=O)(N)N | H4N2O2S
solvent | diglyme | 5 mL | COCCOCCOC | C6H14O3
solvent | diglyme | 3 mL | COCCOCCOC | C6H14O3
product | 3-(3-{[tert-butyl(diphenyl)silyl]oxy}propyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 0.50 g, 95% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCN1S(NC2=C(C1)C=CC=C2)(=O)=O | C26H32N2O3SSi
